US04443603
In 140 ml of chloroform were dissolved 17.7 g of 1-(pyrrolidinocarbonylmethyl)piperazine and 8.4 ml of triethylamine. To the solution was added 15.2 g of 4-(ethoxycarbonyloxy)cinnamoylchloride with ice-cooling, followed by stirring the resultant mixture overnight at room temperature. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and dissolved in ethyl acetate. Any insoluble matter was removed by filtration, and the filtrate was extracted with 140 ml of 1N-hydrochloric acid. The extract was washed with ethyl acetate, neutralized with sodium bicarbonate and then extracted with chloroform. The chloroform layer was successively washed with water and then with brine. The layer was then dried and subjected to distillation to remove the solvent. The resultant crystals were recrystallized from ethyl acetate, thereby obtaining 13.4 g (yield: 54.0%) of 1-[4-(ethoxycarbonyloxy)cinnamoyl]-4-(pyrrolidinocarbonylmethyl)piperazine as crystals having a melting point of 128°-130° C.

reactant | 1-(pyrrolidinocarbonylmethyl)piperazine | 17.7 g | N1(CCCC1)C(=O)CN1CCNCC1 | C10H19N3O
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(ethoxycarbonyloxy)cinnamoylchloride | 15.2 g | C(C)OC(=O)OC1=CC=C(C=CC(=O)Cl)C=C1 | C12H11ClO4
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(ethoxycarbonyloxy)cinnamoyl]-4-(pyrrolidinocarbonylmethyl)piperazine | 13.4 g, yield: 54.0% | C(C)OC(=O)OC1=CC=C(C=CC(=O)N2CCN(CC2)CC(=O)N2CCCC2)C=C1 | C22H29N3O5
